US05736548
To a mixture of 3-(1-imidazolyl)benzonitrile (3.16 g), 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (3.77 g, 16.98 mmol) and DMF (75 ml) was added NaH (0.78 g, 60% dispersion in mineral oil). The reaction mixture was stirred at room temperature for about 2 days, then additional nitrile (0.1 equivalents) and NaH (0.2 equivalents) were added and the mixture was stirred at room temperature overnight. The solvent was stripped, and the residue was partitioned between chloroform (150 ml) and water (350 ml). The layers were separated, the aqueous layer was extracted with chlorform (2×100 ml), and the organic layers were combined, washed with brine, dried over MgSO4, filtered and stripped. The product was dissolved in hot tert-butyldimethyl ether, filtered and stripped. The residue was treated with CH3CN and the solid which formed was collected by filtration to afford 2.10 g of 1-cyclopentyl-3-ethyl-6-[3-(1-imidazolyl)phenyl]pyrazolo [3,4-d]pyrimidin-4-amine.

reactant | 3-(1-imidazolyl)benzonitrile | 3.16 g | N1(C=NC=C1)C=1C=C(C#N)C=CC1 | C10H7N3
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 16.98 mmol, 3.77 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | NaH | 0.78 g | [H-].[Na+]
reactant | NaH | 0.2 equivalents | [H-].[Na+]
reactant | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 1-cyclopentyl-3-ethyl-6-[3-(1-imidazolyl)phenyl]pyrazolo [3,4-d]pyrimidin-4-amine | 2.10 g | C1(CCCC1)N1N=C(C=2C1=NC(=NC2N)C2=CC(=CC=C2)N2C=NC=C2)CC | C21H23N7
